US05352388
Preparation of benzylammonium 2,3-dihydroxybenzoate
Benzylamine (1.07 g; 10 mmol) was added dropwise to a solution of 2,3-dihydroxybenzoic acid (1.54 g; 10 mmol) in methanol (10 cm3). An off-white solid formed almost immediately. The product was collected by filtration and recrystallized from water to produce white crystals. Found: C, 62.0%; H, 5.8%; N, 5.1%. Calculated for C14H15NO4 ; C, 64.30%; H, 5.74%; N, 5.36%. M.pt. 169°-170° C.

reactant | Benzylamine | 10 mmol, 1.07 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 2,3-dihydroxybenzoic acid | 10 mmol, 1.54 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
solvent | methanol | 10 cm3 | CO | CH4O
product | benzylammonium 2,3-dihydroxybenzoate | OC1=C(C(=O)[O-])C=CC=C1O.C(C1=CC=CC=C1)[NH3+] | InChI=1S/C7H9N.C7H6O4/c8-6-7-4-2-1-3-5-7;8-5-3-1-2-4(6(5)9)7(10)11/h1-5H,6,8H2;1-3,8-9H,(H,10,11)
